US08975400B2
2-(3-cyanophenoxy)-5-formylbenzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 3-hydroxybenzonitrile.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 3-hydroxybenzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
product | 2-(3-cyanophenoxy)-5-formylbenzonitrile | C(#N)C=1C=C(OC2=C(C#N)C=C(C=C2)C=O)C=CC1 | C15H8N2O2
